*$
* OPA564
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA564
* Date: 16FEB2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS372E -OCTOBER 2008-REVISED JANUARY 2011
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* 1. Updated PSpice symbol.
* 2. Added subckt information of capactior and Zener in PSpice Schematic.
*
* Final 1.0 : 
* Release to Web
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    OPEN LOOP GAIN AND PHASE W RL AND CL EFFECTS
*    INCLUDING BANDWIDTH CHANGE VERSUS RL
*    INPUT OFFSET VOLTAGE AND TEMPCO
*    INPUT VOLTAGE NOISE WITH 1/F
*    INPUT CURRENT NOISE
*    INPUT BIAS CURRENT W TEMPERATURE EFFECTS
*    AND COMMON MODE VOLTAGE EFFECTS
*    INPUT OFFSET CURRENT W TEMPERATURE EFFECTS
*    INPUT CAPACITANCE
*    INPUT COMMON MODE VOLTAGE RANGE
*    INPUT CLAMPS TO RAILS
*    INPUT DIFFERENTIAL CLAMPS
*    CMRR WITH FREQUENCY EFFECTS
*    PSRR WITH FREQUENCY EFFECTS
*    SLEW RATE
*    OPEN LOOP OUTPUT IMPEDANCE VS FREQUENCY
*    SETTLING TIME
*    QUIESCENT CURRENT
*    RAIL TO RAIL OUTPUT STAGE
*    OUTPUT CURRENT THROUGH SUPPLIES
*    OUTPUT CLAMPS TO THE RAILS
*    OUTPUT CURRENT LIMIT PROGRAMMING
*    CURRENT LIMIT FLAG
*    OUTPUT SWING VS OUTPUT CURRENT
*    ENABLE DISABLE FUNCTION
*    ENABLE DISABLE DELAYS
*    ENABLE INPUT CURRENT
*    QUIESCENT CURRENT IN SHUTDOWN
*    THERMAL SHUTDOWN
*    THERMAL SHUTDOWN FLAG
*    V DIGITAL SUPPLY PIN
*    TEMPERATURE SENSING DIODE
*****************************************************************************
* PINOUT ORDER +IN -IN +V -V OUT VDIG E/S ISET TFLG IFLG TSENS
* PINOUT ORDER  16  15 19 11  5   14   17  12   18   13    9
*****************************************************************************
.SUBCKT OPA564 16 15 19 11 5 14 17 12 18 13 9
*****************************************************************************
* Components
C6 134 139 2E-8 
C7 136 140 2E-8 
C8 137 141 2E-11 
C12 124 160 3E-12 
C13 152 154 0.1E-12 
C14 133 0 4.5E-12 
C15 132 0 4.5E-12 
C16 5 0 120E-12 
C21 133 132 3.1E-12 
C23 159 135 3E-12 
C26 17 0 1E-12 
C27 106 0 0.8E-4 
C28 197 0 5.5E-4 
C29 198 0 10E-4 
C32 191 188 50E-12 
C33 192 190 2.8E-12 
C34 108 0 0.8E-4 
C35 199 0 5.5E-4 
C36 200 0 10E-4 
C37 202 114 3E-12 
C38 217 114 22E-12 
C39 233 232 5E-12 
C40 230 0 5E-12 
C41 245 244 5E-12 
C42 242 0 5E-12 
D5 5 19 DD 
D6 11 5 DD 
D7 128 0 DIN 
D8 129 0 DIN 
D9 130 0 DVN 
D10 131 0 DVN 
D11 123 126 DD 
D12 114 123 DD 
D13 148 112 DD 
D14 161 150 DD 
D17 171 168 DD 
D18 169 170 DD 
D19 173 0 DD 
D20 179 126 DD 
D21 114 180 DD 
D24 204 202 DD 
D29 205 202 DD 
D34 206 0 DD 
D35 208 209 DL 
D36 210 0 DD 
D37 218 11 DT 
E2 114 0 11 0 1
E3 126 0 19 0 1
E4 132 15 130 131 4.5
E5 134 0 126 135 1
E6 136 0 114 135 1
E7 137 0 138 0 1
E10 142 16 141 0 -0.5
E11 145 142 140 0 -0.33
E12 146 145 139 0 0.3
E14 135 114 126 114 0.5
E17 144 0 133 0 1
E18 143 0 15 0 1
E20 167 135 154 152 1
E23 126 157 126 171 1
E24 158 114 170 114 1
E25 178 0 5 0 1
E48 182 123 172 0 30
E49 183 135 172 0 -30
E50 172 0 194 114 1
E51 102 0 149 5 100
E52 101 0 121 149 1
E53 105 0 VALUE={V(101)*V(102)}
E54 104 0 5 147 100
E55 103 0 11 5 -1
E56 107 0 VALUE={V(103)*V(104)}
E69 109 0 207 0 -560
E72 212 0 211 0 -0.875
E73 160 0 5 0 1
E74 216 114 17 114 1
E81 220 221 219 9 400
E82 110 0 220 0 -1E-3
E83 219 218 VALUE={V(110)*V(111)}
E84 222 0 106 0 1
E85 223 0 108 0 1
E86 224 0 108 225 10
E87 226 0 227 108 10
E88 236 0 106 237 10
E89 238 0 239 106 10
E90 204 114 243 0 1
E91 205 114 231 0 1
E93 249 0 126 114 1
E94 201 248 250 0 0.118
E95 215 172 251 0 -0.6
E97 133 146 174 0 5.627E-3
F1 126 176 V24 -1
F2 177 114 V24 -1
F3 195 114 V53 1
F4 195 114 V54 1
G2 133 15 128 129 1.44E-4
G3 123 135 159 135 0.2E-3
G7 168 135 123 135 -1E-3
G8 135 169 123 135 1E-3
G9 135 170 156 114 1E-3
G10 171 135 126 151 1E-3
G11 19 11 172 0 29.9E-3
G12 179 126 149 176 10
G13 114 180 177 147 10
G14 164 114 181 0 201E-6
G15 151 156 172 0 5E-3
G16 106 0 105 0 -1
G17 108 0 107 0 -1
G52 15 0 208 0 7E-10
G53 133 0 208 0 8.7E-11
G55 126 132 126 132 -1.5E-12
G56 132 114 132 114 -1.51E-12
G57 126 133 126 133 -1.5E-12
G58 133 114 133 114 -1.51E-12
I8 0 128 0.1E-3
I9 0 129 0.1E-3
I10 0 130 0.1E-3
I11 0 131 0.1E-3
I19 0 173 1E-3
I20 193 114 10E-6
I21 19 11 1.1E-3
I22 0 206 1E-3
I65 15 0 10E-12
I66 133 0 10E-12
I67 0 210 1E-3
J1 165 133 165 JC 
J2 165 132 165 JC 
J3 132 166 132 JC 
J4 133 166 133 JC 
J5 253 252 253 JC 
J6 252 253 252 JC 
M1 147 148 122 122 NOUT L=3U W=20000U
M2 149 150 121 121 POUT L=3U W=20000U
M3 151 151 125 125 POUT L=3U W=20000U
M4 152 153 115 115 PIN L=3U W=40U
M5 154 155 117 117 PIN L=3U W=40U
M8 156 156 127 127 NOUT L=3U W=20000U
M19 163 164 126 126 PIN L=6U W=500U
M23 164 164 126 126 PIN L=6U W=500U
M41 135 185 123 186 PSW L=1.5U W=150U
M42 123 184 135 187 NSW L=1.5U W=150U
M43 188 189 114 114 NEN L=3U W=300U
M44 190 188 114 114 NEN L=3U W=3000U
M45 193 193 14 14 PEN L=6U W=60U
M46 17 193 14 14 PEN L=6U W=60U
M47 196 195 126 126 PIN L=6U W=0.4U
M48 196 195 114 114 NIN L=3U W=0.75U
M57 201 202 126 126 PIN L=6U W=0.4U
M58 201 202 114 114 NIN L=3U W=0.2U
M65 181 213 0 0 NEN L=2U W=1000U
M66 213 215 0 0 NEN L=2U W=100U
M67 203 201 126 126 PIN L=6U W=0.4U
M68 203 201 114 114 NIN L=3U W=0.2U
M69 189 217 114 114 NJN L=3U W=300U
M72 18 248 14 14 PIN L=6U W=15U
M73 18 248 114 114 NIN L=3U W=15U
M74 13 195 14 14 PIN L=6U W=1.5U
M75 13 195 114 114 NIN L=3U W=0.2U
Q15 161 119 126 QPL 
Q20 112 113 114 QNL 
Q21 229 230 0 QNF 
Q22 231 232 233 QPF 
Q23 233 234 228 QPF 
Q24 229 235 0 QNF 
Q25 241 242 0 QNF 
Q26 243 244 245 QPF 
Q27 245 246 240 QPF 
Q28 241 247 0 QNF 
R3 115 116 2 
R4 117 116 2 
R10 113 118 1E3 
R11 119 120 1E3 
R12 121 19 0.5E-3 
R13 11 122 0.5E-3 
R16 123 124 300 
R17 125 126 0.5E-3 
R18 114 127 0.5E-3 
R22 11 19 100E6 
R30 134 139 1E6 
R31 136 140 1E6 
R32 137 141 1E6 
R33 0 139 100 
R34 0 140 100 
R35 0 141 100 
R36 143 138 1E3 
R37 138 144 1E3 
R43 157 150 100 
R44 158 148 100 
R45 135 123 1E9 
R46 114 152 3E3 
R47 114 154 3E3 
R59 5 149 10E-3 
R60 147 5 10E-3 
R62 167 159 1E3 
R66 168 171 1E8 
R67 170 169 1E8 
R68 171 126 1E3 
R69 114 170 1E3 
R70 169 135 1E6 
R71 170 135 1E6 
R72 135 171 1E6 
R73 135 168 1E6 
R74 0 174 1E6 
R75 145 146 1E9 
R76 142 145 1E9 
R77 16 142 1E9 
R78 15 132 1E9 
R79 135 159 1E9 
R81 157 126 1E9 
R82 114 158 1E9 
R83 138 0 1E9 
R87 178 176 201 
R88 177 178 201 
R127 182 0 1E12 
R128 183 0 1E12 
R129 186 0 1E12 
R130 187 0 1E12 
R131 188 191 1E4 
R132 190 192 1E6 
R133 114 194 1E12 
R134 195 126 33E3 
R135 0 196 84E3 
R136 0 101 1E6 
R137 0 102 1E6 
R138 0 105 1E6 
R139 0 103 1E6 
R140 0 104 1E6 
R141 0 107 1E6 
R142 106 197 0.15 
R143 197 198 0.22 
R144 198 109 33 
R156 108 199 0.15 
R157 199 200 0.22 
R158 200 109 33 
R166 0 203 84E3 
R169 114 202 1E3 
R184 202 201 1E12 
R185 0 207 1E6 
R186 0 109 1E6 
R195 0 172 1E9 
R196 174 0 1E6 
R197 11 175 1E9 
R198 123 160 4E10 
R314 0 208 1E8 
R315 0 210 10E6 
R316 0 211 20E6 
R317 0 212 10E6 
R318 181 212 10E6 
R319 214 213 1E6 
R320 0 211 20E6 
R321 162 153 20.5E3 
R322 155 132 20.5E3 
R325 12 175 5E3 
R326 189 216 1E4 
R327 217 203 1E4 
R332 9 219 1 
R333 220 0 1E6 
R334 0 110 1E6 
R335 0 222 1E9 
R336 223 0 1E9 
R337 111 222 1E3 
R338 223 111 1E3 
R339 220 0 1E6 
R340 0 110 1E6 
R341 11 218 1E9 
R342 11 218 1E9 
R343 11 219 1E9 
R344 11 9 1E9 
R345 229 232 1E4 
R346 232 233 1E3 
R347 230 231 1E4 
R348 0 230 1E3 
R349 234 226 1E5 
R350 235 224 1E6 
R351 241 244 1E4 
R352 244 245 1E3 
R353 242 243 1E4 
R354 0 242 1E3 
R355 246 238 1E5 
R356 247 236 1E6 
R358 0 249 1E9 
R359 0 250 1E9 
R360 0 201 1E9 
R361 0 248 1E9 
R362 0 215 1E12 
R363 0 215 1E12 
R364 0 251 1E12 
R365 146 133 1E9 
R366 252 132 1.6E3 
R367 133 253 1.6E3 
R368 114 18 1E9 
R369 114 13 1E9 
R370 0 239 1E9 
R371 0 239 1E9 
R372 0 237 1E9 
R373 0 237 1E9 
R374 0 238 1E9 
R375 0 236 1E9 
R376 0 227 1E9 
R377 0 227 1E9 
R378 0 225 1E9 
R379 0 225 1E9 
R380 0 226 1E9 
R381 0 224 1E9 
R382 11 12 1E12 
V18 133 162 -1.7E-3
V21 163 116 2.2
V23 173 174 0.71
V24 175 11 1.2
V49 184 183 15
V50 185 182 -15
V51 192 114 1
V52 190 194 1.111E-6
V53 120 179 0
V54 180 118 0
V72 206 207 0.702
V74 126 165 -0.05
V75 166 114 -0.1
V143 209 0 3
V145 210 211 1.798
V146 214 0 1
V154 221 0 1.86
V155 225 0 160
V156 227 0 140
V157 228 0 15
V158 237 0 160
V159 239 0 140
V160 240 0 15
V164 250 249 10
V165 191 114 3.3
V166 212 251 1
.MODEL DT D IS=3.3E-16 N=1.008 EG=1.11 XTI=3
.MODEL DD D
.MODEL DVN D KF=3E-14 IS=1E-16
.MODEL DIN D
.MODEL DL D IS=2E-11 N=1.397 XTI=1.5
.MODEL JC NJF
.MODEL QNL NPN
.MODEL QPL PNP
.MODEL QNF NPN
.MODEL QPF PNP
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL NJN NMOS KP=200U VTO=2 IS=1E-18
.MODEL PIN PMOS KP=200U VTO=-0.7 IS=1E-18
.MODEL NIN NMOS KP=200U VTO=0.7 IS=1E-18
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL PEN PMOS KP=200U VTO=-0.7 IS=1E-18
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.ENDS OPA564
*
